US06013649
Part C: To a solution of 4.4 g (13 mmol) of methyl 3-[(4-methoxyphenyl)sulfonyl]-octanoic acid from Part B in 60 mL of anhydrous THF at zero° C. under nitrogen, was added 14.6 mL (0.5 g, 13 mmol) of a 1.0 M solution of lithium aluminum hydride in THF. After 2 hours, the reaction mixture was cooled to zero° C. and 0.5 mL of water was added, followed by 0.5 mL of 2.5 N sodium hydroxide solution and 1.5 mL of water, the reaction was filtered, the filtrate concentrated in vacuo, ethyl acetate and 5% citric acid solution were added, the organic layer was separated and washed with saturated sodium bicarbonate solution and brine, dried with magnesium sulfate, filtered and concentrated to afford 3.3 grams of pure 3-[(4-methoxyphenyl)sulfonyl]-octan-1-ol, m/z=307 (M+Li).

reactant | methyl 3-[(4-methoxyphenyl)sulfonyl]-octanoic acid | 13 mmol, 4.4 g | CC(C(=O)O)C(CCCCC)S(=O)(=O)C1=CC=C(C=C1)OC | C16H24O5S
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.5 mL | O | H2O
reactant | sodium hydroxide | 2.5 N, 0.5 mL | [OH-].[Na+]
reactant | water | 1.5 mL | O | H2O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 3-[(4-methoxyphenyl)sulfonyl]-octan-1-ol | 3.3 grams | COC1=CC=C(C=C1)S(=O)(=O)C(CCO)CCCCC | C15H24O4S
